US05840749
2-(6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-yl)-N-hydroxy-N-methylpropanamide
A stirred solution of 16.6 g of N-methylhydroxylamine hydrochloride in 400 ml of dry pyridine was chilled and treated dropwise over several minutes with a solution of 15.7 g of 2-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl) propionyl chloride in 500 ml of tetrahydrofuran. The solution was allowed to equilibrate to room temperature with continued stirring. Thin layer analysis (silica gel, 30% hexane in ethyl acetate) indicated reaction completion after 5 hours. Pyridine and tetrahydrofuran were removed in vacuo and the resulting mixture was partitioned against a total of 700 ml of methylene chloride and 2000 ml of 10% HCl (pH of aqueous layers <1). The organic phase was washed with 500 ml of water. The dried (Na2 SO4) organic phase was concentrated in vacuo to an oil. Thin layer analysis indicated a mixture, which was separated via preparative HPLC to give 10.58 g of the product, 2-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl)-N-hydroxy-N-methylpropanamide, as an oil.

reactant | N-methylhydroxylamine hydrochloride | 16.6 g | Cl.CNO
reactant | 2-(6,11-dihydro-11-oxodibenz[b,e]oxepin-2-yl) propionyl chloride | 15.7 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(C(=O)Cl)C | C17H13ClO3
reactant | hexane | CCCCCC | C6H14
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-yl)-N-hydroxy-N-methylpropanamide | 10.58 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(C(=O)N(C)O)C | C18H17NO4
